US08530594B2
2-Bromo-3-decyloxythiophene (5)
3-decyloxy-thiophene (5.50 g, 0.023 mol) was dissolved in CHCl3 (50 mL) under argon atmosphere. N-Bromosuccinimide (NBS) (4.09 g, 0.023 mol) was added to the solution as one portion. The mixture was reacted under argon and protected from light for 4˜8 hours at room temperature (25° C.). Afterwards it was distilled to remove CHCl3, allowed to cool to room temperature, and diluted with hexane (100 mL). The mixture was filtered and the filtrate was concentrated in vacuum. The residue was applied to silica gel, eluted with 1:9 ethyl acetate/hexane to give 6.97 g (94% yield) of light yellow liquid. Mw=319.30. Element Anal. Calcd. for C14H23BrOS: C, 52.66; H, 7.26; Br, 25.02; 0, 5.01; S, 10.04. Found: C, 52.62; H, 7.25; Br, 24.90; 0, 5.09; S, 10.04.

reactant | 3-decyloxy-thiophene | 0.023 mol, 5.50 g | C(CCCCCCCCC)OC1=CSC=C1 | C14H24OS
reactant | N-Bromosuccinimide | 0.023 mol, 4.09 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-3-decyloxythiophene | 94% yield | BrC=1SC=CC1OCCCCCCCCCC | C14H23BrOS
